US03932465
By treating 0.70 g of 3-(5-diphenylmethoxycarbonylfurfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid diphenylmethyl ester 1-oxide with 5 ml of trifluoroacetic acid and 2 ml of anisole, the 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide is obtained; thin-layer chromatogram (silica gel): Rf = 0.15 (system: n-butanol/ethanol/water 40:10:50).

reactant | 3-(5-diphenylmethoxycarbonylfurfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid diphenylmethyl ester 1-oxide | 0.70 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS([C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O)CC2=CC=C(O2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C47H38N2O8S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide | C(=O)(O)C1=CC=C(CC=2CS([C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)=O)O1 | C21H18N2O8S
